US07105516B2
cis-2-(5-Cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid ethyl ester
2-(5-Cyano-1H-indol-3-yl)-cyclopent-1-enecarboxylic acid ethyl ester (1.20 g, 4.3 mMol) was stirred and heated slightly until dissolved in methanol (250 mL). 10% palladium on carbon (300 mg) was added and the reaction was shaken in a Parr apparatus under hydrogen (50 psi) for 1 h. The reaction was filtered through Celite and sand, and the solvent was evaporated in vacuo. The product was obtained as a white solid (1.08 g, 89%). 1H NMR (400 MHz, CDCl3) δ 8.31 (1H, bs), 8.00 (1H, s), 7.37 (2H, AB, δv=18 Hz, J=8.4 Hz), 7.09 (1H, d, J=1.5 Hz), 3.63 (2H, m), 3.48 (1H, m), 3.28 (1H, q, J=6.5 Hz), 2.00–2.22 (5H, m), 1.76 (1H, m), 0.63 (3H, t, J=6.8 Hz); MS m/e 305.2 (M+Na).

reactant | 2-(5-Cyano-1H-indol-3-yl)-cyclopent-1-enecarboxylic acid ethyl ester | 4.3 mMol, 1.20 g | C(C)OC(=O)C1=C(CCC1)C1=CNC2=CC=C(C=C12)C#N | C17H16N2O2
solvent | methanol | 250 mL | CO | CH4O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | cis-2-(5-Cyano-1H-indol-3-yl)-cyclopentanecarboxylic acid ethyl ester | 1.08 g, 89% | C(C)OC(=O)[C@H]1[C@H](CCC1)C1=CNC2=CC=C(C=C12)C#N | C17H18N2O2
